US05817827
Manufacture of 4-chlorobenzonitrile
A suspension of 50 mmol of 4-chlorobenzamide and 125 mmol of triethylamine-sulphur trioxide in 75 ml of triethylamine was stirred at 89° C. for 6 hours. The working up was effected as described under Example 1a). Yield: 92% of theory.

reactant | 4-chlorobenzamide | 50 mmol | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | triethylamine sulphur trioxide | 125 mmol | C(C)N(CC)CC.S(=O)(=O)=O
solvent | triethylamine | 75 ml | C(C)N(CC)CC | C6H15N
product | 4-chlorobenzonitrile | Yield: 92% | ClC1=CC=C(C#N)C=C1 | C7H4ClN
